US08802713B2
2.0 g of N′-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}acetohydrazide was dissolved in 100 mL of tetrahydrofuran, 0.95 g of malonyl chloride was added under cooling with ice, stirring was carried out under cooling with ice for one hour, and then stirring was carried out under reflux with heating for 5 hours. Then, the solvent was distilled off under reduced pressure, and the obtained crystals were washed with isopropyl ether to obtain 1.74 g of 1-acetyl-2-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}pyrazolidine-3,5-dione.

reactant | N′-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}acetohydrazide | 2.0 g | FC1=C(C=C(C(=C1)C)SCC(F)(F)F)NNC(C)=O | C11H12F4N2OS
reactant | malonyl chloride | 0.95 g | C(CC(=O)Cl)(=O)Cl | C3H2Cl2O2
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 1-acetyl-2-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}pyrazolidine-3,5-dione | 1.74 g | C(C)(=O)N1N(C(CC1=O)=O)C1=C(C=C(C(=C1)SCC(F)(F)F)C)F | C14H12F4N2O3S
